US08791107B2
PREPARATION x65: (R)-tert-butyl 4-(2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-1H-indole-1-carboxylate
The title compound was prepared in a manner similar to EXAMPLE 181 using (R)-2-(1-(tert-butyldimethylsilyl)-1H-indol-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x12, 60 mg, 0.142 mmol), cesium carbonate (93 mg, 0.285 mmol), palladium(II)acetate (1.59 mg, 0.007 mmol), dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (10.2 mg, 0.021 mmol), and tert-butyl 4-bromo-1H-indole-1-carboxylate (126 mg, 0.427 mmol) in dioxane 2 mL (8 mg, 12%). ESI-MS m/z [M+H]+ calc'd for C30H30N6O3, 523.24. found 523.3.

reactant | (R)-2-(1-(tert-butyldimethylsilyl)-1H-indol-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.142 mmol, 60 mg | [Si](C)(C)(C(C)(C)C)N1C=CC2=C(C=CC=C12)C1=NC=2N3[C@H](CNC2C=N1)COCC3 | C23H31N5OSi
reactant | cesium carbonate | 0.285 mmol, 93 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 0.021 mmol, 10.2 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | tert-butyl 4-bromo-1H-indole-1-carboxylate | 0.427 mmol, 126 mg | BrC1=C2C=CN(C2=CC=C1)C(=O)OC(C)(C)C | C13H14BrNO2
solvent | dioxane | 2 mL, 8 mg | O1CCOCC1 | C4H8O2
catalyst | palladium(II)acetate | 0.007 mmol, 1.59 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (R)-tert-butyl 4-(2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-1H-indole-1-carboxylate | N1C=CC2=C(C=CC=C12)C1=NC=2N3[C@H](CN(C2C=N1)C1=C2C=CN(C2=CC=C1)C(=O)OC(C)(C)C)COCC3 | C30H30N6O3
